US06645990B2
10] To 4-hydroxypiperidine (143 mg, 1.41 mmol) was added a solution of 6-bromo-2-pyridine-carboxaldehyde (200 mg, 1.08 mmol) to give 2-bromo-6-[(4-hydroxypiperidyl)methyl]-pyridine as a white -solid. MS m/z: 271.0 (M+H). Calc'd for C11H15BrN2O—271.15.

reactant | 4-hydroxypiperidine | 1.41 mmol, 143 mg | OC1CCNCC1 | C5H11NO
reactant | 6-bromo-2-pyridine-carboxaldehyde | 1.08 mmol, 200 mg | BrC1=CC=CC(=N1)C=O | C6H4BrNO
product | 2-bromo-6-[(4-hydroxypiperidyl)methyl]-pyridine | BrC1=NC(=CC=C1)CN1CCC(CC1)O | C11H15BrN2O
